US04200576
2-(Diacetoxymethyl)-5-nitro-furane (48.6 pts. by wt.) are boiled in a mixture of water (216 pts. by vol.) and concentrated H2SO4 (108 pts. by wt.) for 15 minutes under N2, the mixture is then cooled and the 5-nitro-furfurol formed is taken up in ether and, after removing the ether, dissolved in 100 pts. by vol. of methanol. A solution of 1-amino-2-oxo-imidazolidine hydrochloride (27.5 pts. by wt.) in water (100 pts. by vol.) is added to this solution. After 4.5 hrs., the product which has separated out is filtered off, washed with water and dried.

reactant | 2-(Diacetoxymethyl)-5-nitro-furane | C(C)(=O)OC(C=1OC(=CC1)[N+](=O)[O-])OC(C)=O | C9H9NO7
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | water | O | H2O
product | 5-nitro-furfurol | [N+](=O)([O-])C1=CC=C(CO)O1 | C5H5NO4
